reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11]>>[C:1]([C:2]([C-:3]([N+:4]1=[C:6]([H:14])[C:5]1([H:12])[H:13])[H:11])([H:9])[H:10])([H:7])([H:8])[H:15],70.51926759264609
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C@@:3]3([H:11])[O:4][C:5]([H:12])([H:13])[C@:6]1([H:14])[C@@:7]23[H:15]>>[C:1]([C@@:2]1([H:10])[C@@:3]2([H:11])[O:4][C:5]([H:13])=[C:6]([H:14])[C@@:7]12[H:15])([H:8])([H:9])[H:12],106.85336486746401
[C:1]([O:2][C:3]([C:4]([O:5][C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:1]([O+:2]=[C:3]([H:10])[H:11])([H:7])[H:9].[C:4]([O:5][C:6]([H:14])([H:15])[H:16])([H:8])([H:12])[H:13],95.8548186956604
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7]>>[O:1]([C@@:2]([C:3]([H:9])([H:10])[H:12])([C:4](=[C:5]=[O:6])[H:11])[H:8])[H:7],62.81233066426872
[C:1]([C:2](/[C:3]([O:4][H:14])=[C:5](/[O:6][H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],54.9649399542561
[C:1]([C:2](=[C:3]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[C:4](=[C:5]([O:6][C:7]([H:19])([H:20])[H:21])[H:17])([H:15])[H:16].[H:12][H:18]>>[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],46.7514543925594
[C:1]([C:2]([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])=[C:6]=[N:7][O:3][H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10],40.20136642295621
[C:1]([C:2](=[O:3])[N:4]([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([N:4]=[C:2]=[O:3])([H:5])([H:6])[H:7].[H:8][H:9],106.89289693634501
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7]>>[O:1]([C:2](/[C:3](=[C:4](\[C:5]#[N:6])[H:11])[H:10])([H:8])[H:9])[H:7],64.9271932384599
[C:1]([H:7])([H:8])([H:9])[H:10].[C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5](=[O:6])[H:16])([H:14])[H:15]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],11.073769335037
[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[C:2]1([C:5]#[N:6])=[C:3]([H:9])[C:4]1([H:10])[H:11].[O:1]([H:7])[H:8],82.5665597933777
[C:1]([C:2]([O+:3]=[C-:4][N:5]([N+:7]#[C-:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],29.44104172768681
[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10].[N:3](=[C:4]=[O:5])[O:6][C:7]([H:14])([H:15])[H:16],103.81338320776399
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N+:6]([C:4](=[C:2]([O:3][H:11])[H:10])[O-:5])([H:12])[H:13])([H:7])([H:8])[H:9],119.099148705491
[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[O:4])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:12],73.2347746354741
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[H:13])[H:9])([H:6])([H:7])[H:8]>>[C:1]([O:5]/[C:4](=[C:2](/[C:3]([H:10])([H:11])[H:12])[H:9])[H:13])([H:6])([H:7])[H:8],98.1629953009032
[O:1]([C:2]([C:3]([O+:4]=[C-:5][N:6]([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],47.330255526099705
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C:6]([H:12])=[C:5]=[C:4]1[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7],41.8281914719507
[C:1]([C:2]([C@@:3]1([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[O:7]1)([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([C:5](=[C:6]([H:18])[H:19])[H:16])([H:14])[H:15])([O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],83.55290286467871
[C:1]([N:2]1[C@:3]2([H:10])[N:4]([H:11])[C@:5]2([H:12])[O:6]1)([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],33.8224940568022
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])([H:14])[O:6]1>>[C-:1](=[O+:6][C:5](/[C:4](=[C:3](\[C:2]([H:8])([H:9])[H:10])[H:11])[H:12])([H:13])[H:14])[H:7],85.52298018203041
[C+:1]([C@:4]([C:3]([O:2][H:7])([H:9])[H:10])([O-:5])[H:11])([H:6])[H:8]>>[C:1]([O:2][C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],9.7338719807734
[N:1]1([H:8])[C:2][C@@:3]2([H:6])[C@:4]1([H:7])[N:5]2[H:9]>>[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9],54.940909878617205
[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8]>>[C:4]([C:5]#[C:6][H:11])([H:8])([H:9])[H:10].[N:1](=[C:2]=[O:3])[H:7],81.7804173300707
